US07557114B2
(a) 2-Chloro-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine
Prepared in analogy to Example A2(b) from 6-chloro-2,3-bis-chloromethyl-pyridine (CAS: 220001-94-5) and triphenylmethylamine. Light yellow foam. MS (m/e): 397.0 ([MH+, 100%).

reactant | 6-chloro-2,3-bis-chloromethyl-pyridine | ClC1=CC=C(C(=N1)CCl)CCl | C7H6Cl3N
reactant | triphenylmethylamine | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
product | 2-Chloro-6-trityl-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | ClC1=CC=C2C(=N1)CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H21ClN2
